US07495103B2
A mixture of 3-methyl-4-nitro-1H-indole and 3-methyl-6-nitro-1H-indole (3 g, 17 mol) and 10% Pd—C (0.5 g) in ethanol (30 mL) was stirred overnight under H2 (1 atm) at room temperature. Pd—C was filtered off and the filtrate was concentrated under reduced pressure. The residue was purified by column chromatography to give 3-methyl-1H-indol-6-ylamine (B-7) (0.6 g, 24%). 1H NMR (CDCl3) δ 7.59 (br s, 1H), 7.34 (d, J=8.0 Hz, 1H), 6.77 (s, 1H), 6.64 (s, 1 h), 6.57 (m, 1H), 3.57 (br s, 2H), 2.28 (s, 3H); ESI-MS 147.2 m/z (MH+).

reactant | 3-methyl-4-nitro-1H-indole | CC1=CNC2=CC=CC(=C12)[N+](=O)[O-] | C9H8N2O2
reactant | 3-methyl-6-nitro-1H-indole | 17 mol, 3 g | CC1=CNC2=CC(=CC=C12)[N+](=O)[O-] | C9H8N2O2
solvent | ethanol | 30 mL | C(C)O | C2H6O
catalyst | Pd—C | 0.5 g | [Pd] | Pd
product | 3-methyl-1H-indol-6-ylamine | 0.6 g, 24% | CC1=CNC2=CC(=CC=C12)N | C9H10N2
